Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nadolol
 
Attending: ___
 
Chief Complaint:
HCV cirrhosis, upper GI bleed, cerebral edema
 
Major Surgical or Invasive Procedure:
Left IJ Central line
R arterial line
mechanical ventilation
 
History of Present Illness:
___ y.o. female with Hep C/ETOH cirrhosis, who presented to ___ 
___ ___ with hematemesis.  Endoscopy revealed 
bleeding esophageal varices which were banded x 3 but she 
continued to bleed and required a repeat endoscopy the following 
day with three more bands placed to achieve hemostasis.  At 
least 1 liter of blood suctioned out of the stomach.  She was 
placed on prophylactic levofloxacin on day #1. She was 
hypotensive, and was rescuscitated with a total of 13 units 
PRBCs, 20 units PLTs, and 12 units FFP.  She remained 
hypotensive and required pressor (levophed).  She was intubated 
on hospital day #1 for airway protection.  Initially, she 
remained unresponsive off sedation, presumed due to hepatic 
encephalopathy.  She received lactulose and rifaxamin.  Over the 
next couple days, she stabilized hemodynamically and was weaned 
off pressor.  On ___ she had a tonic clonic seizure and 
received ativan.  CT head revealed large areas of brain edema in 
the parietal and temporal lobes.  Neurology was consulted and 
she received one dose of mannitol.  Her serum osm was 314.  She 
was transfered to ___ for further care.  
.
Of note, on the AM of transfer, she bit her ET tube when 
sedation was lightened and required paralytic to place a bite 
guard.  Also, just prior to transfer, sputum culture from ___ 
grew MRSA and she was begun on vancomycin.

 
Past Medical History:
**HCV/EtOH cirrhosis, on transplant list
- dx'ed in ___  
- decompensated in ___ (+ EtOH use)  
- completed ___ rehab program, sober since  
- sx of encephalopathy, ascites, Grade I varices (last EGD ___
- hepatopulmonary syndrome, on home O2 at night (2L) 
**Depression 
**Hip fracture s/p ORIF ___
**cholelithiasis, s/p ccy
**s/p hysterectomy/BSO  
**s/p tonsillectomy  
**s/p ankle surgery  
**s/p miscarriage at age ___  
**s/p tubal pregnancy at age ___

 
Social History:
___
Family History:
+ lung cancer in M aunt  
+ alcoholism  
M - DM type II, HTN, depression/anxiety, alcoholism  
F - doesn't know her father  
2 brothers, 1 sister - all alcoholics  
one brother is being considered as her liver donor  

 
Physical Exam:
VS: 98.5, 89/51, 61, 23, 93% on ___
GEN: sedated, obese female
HEENT: pupils small but reactive
LUNGS: decreased BS at left base
HEART: RRR, nl S1S2, no m/r/g
ABD: hypoactive BS, soft, nd/nt
EXT: no edema
NEURO: with propofol off, withdraws to noxious stimuli.  No 
purposeful movement

 
Pertinent Results:
ADMISSION LABS:
.
___ 12:34AM   ___ PTT-34.6 ___
___ 12:34AM   WBC-4.2 RBC-3.77* HGB-11.8* HCT-33.9* MCV-90 
MCH-31.4 MCHC-34.9 RDW-17.8* PLT COUNT-37*
___ 12:34AM   TSH-2.7
___ 12:34AM   OSMOLAL-305
___ 12:34AM   ALBUMIN-2.7* CALCIUM-7.8* PHOSPHATE-4.1 
MAGNESIUM-2.5
___ 12:34AM   ALT(SGPT)-359* AST(SGOT)-57* LD(LDH)-191 ALK 
PHOS-54 TOT BILI-2.9*
___ 12:34AM   GLUCOSE-103 UREA N-18 CREAT-0.7 SODIUM-151* 
POTASSIUM-3.8 CHLORIDE-121* TOTAL CO2-24 ANION GAP-10
___ 12:54AM   freeCa-1.13
___ 12:54AM   LACTATE-1.3
___ 12:54AM   TYPE-ART PO2-80* PCO2-36 PH-7.45 TOTAL CO2-26 
BASE XS-1
.
Initial CXR, portable ___:
PORTABLE SUPINE CHEST RADIOGRAPH:
The endotracheal tube is 2 cm from the carina, recommend pulling 
back between 2 and 3 cm. A nasogastric tube  terminates 
overlying the mid stomach with side port well beyond the GE  
junction. A right subclavian catheter terminates over the mid 
SVC. The lung volumes are low. The cardiomediastinal silhouette 
is stable. There is  consolidation of the left base either 
representing atelectasis or pneumonia.  There is a likely small 
associated left pleural effusion 
.
CT head ___:
IMPRESSION: Bilateral temporal lobe edema with effacement of the 
subjacent 
temporal horns of the lateral ventricle temporal horn of the 
lateral 
ventricles. There appears to be extension of edema into the left 
parietal 
region with mild sulcal effacement. Images from outside hospital 
would be 
useful to assess for interval change. 
ATTENDING NOTE: I think that the white matter hypodensity 
involves both 
cerebral hemispheres with predominent involvement of temporal 
lobes. 
Conditions such herpres encephgalitis should be considered in 
the differential but extensive involvement of frontal and 
parietal lobes is somewhat unusual. MRI can help for firther 
assessment. 
.
Abd u/s w/doppler ___:
IMPRESSION: 
1. Patent hepatic vasculature. 
2. Ascites. A mark was made at the left lower quadrant for 
paracentesis to 
be performed by the clinical staff. 
3. Small right pleural effusion. 
4. Splenomegaly. 
.
EEG ___:
IMPRESSION: This telemetry captured one electrographic seizure 
with 
onset in the left temporal region, which then spread to both 
hemispheres 
and lasted for about two minutes. The background activity in 
wakefulness 
showed bursts of generalized slowing and occasional left 
posterior 
quadrant slowing. 
.
___ CT-A Head:
IMPRESSION: 
1. Normal CT angiography and CT venography with no vascular 
stenosis or 
occlusion, and no venous thrombosis. 
2. Unchanged diffuse hypodensity throughout white matter tracts 
symmetrically involving both temporal, and, to a lesser extent, 
frontal lobes. The findings are suggestive of cerebral edema due 
to a systemic or metabolic cause, including liver failure or 
related metabolic abnormalities. 

___ EEG
Impression: This 24 hour video EEG telemetry captured no 
electrographic 
seizures or pushbutton activations. Automated and routine 
sampling 
demonstrated periods of generalized slowing consistent with an 
underlying encephalopathy. Occasional periods of slowing were 
seen in 
the temporal parietal leads consistent with more focal regions 
of 
underlying cortical or subcortical dysfunction. 
.
___ CT Head
IMPRESSION: 
1. Unchanged diffuse hypodensity involving the white matter 
tracts 
predominantly involving the temporal lobe, also involving the 
frontal lobes. The differential diagnosis includes cerebral 
edema due to the liver failure. Other white matter disease 
cannot be excluded. MRI of the head is the best modality for 
evaluation of the white matter disease and cerebral edema. 
2. No other acute intracranial pathology is identified. 
.
___ EEG
IMPRESSION: This telemetry captured no ongoing seizure activity. 
Routine 
samplings showed a background suggestive of an encephalopathy 
involving 
both superficial and deeper structures and additional slowing in 
the 
left mid-temporal region. 
.
___ EEG
IMPRESSION: This telemetry captured no clinical or 
electrographic 
seizures. The background activity was slow with additional 
bursts of 
generalized slowing suggestive of an encephalopathy and with 
focal 
slowing and sharp and slow wave complexes in the left temporal 
and 
posterior areas. 
.
___ MRI
IMPRESSION: 
1. Abnormal T2- and FLAIR-signal identified bilaterally, most 
intense at the insular cortex. Abnormal signal also seen in the 
medial and inferior temporal lobes, bilaterally. Findings raise 
the possibility of herpetic or other viral encephalitis, though 
there is no restricted diffusion or hemorrhage. 
2. Signal abnormality appears to involve more than simply the 
white matter 
tracts, with involvement of the insular cortex as well as the 
cortex in the temporal lobes. This more global picture again 
raises concern for previous hypoxic/anoxic brain injury, 
possibly with secondary acute demyelination. 
.
___ CXR
Nasogastric tube terminates in body of the stomach and is no 
longer coiled.  Endotracheal tube has apparently been removed. 
Examination is otherwise without change except for improving 
aeration at the lung bases with associated slight increase in 
lung volumes.
.
___ EEG
IMPRESSION: This is a normal routine EEG in the waking and 
drowsy 
states. There were no focal lateralized or epileptiform features 
noted 
.
___ CXR
Bibasilar atelectasis are grossly unchanged. Cardiac size is top 
normal. 
There are low lung volumes. There is no pleural effusion. NG 
tube tip is in the stomach. 
.
DISCHARGE LABS:
WBC 4
HCT 31.5
PLT 63
.
CHEM 10 entirely WNL
(Cr 0.6)
 
Brief Hospital Course:
___ y.o. female with Hep C and alcoholic cirrhosis, initially 
admitted to ___ with variceal bleeding, 
stabilized endoscopically, but then developed altered mental 
status, presumed due to hepatic encephalopathy, and intubated 
for airway protection. Subseuqently found to have cerebral 
edema, transferred to ___ for further care. Hospital course by 
system:
.
# Neuro: Pt had acutely AMS at OSH and was found to have 
developed cerebral edema after her initial variceal bleed. 
Initialy, her AMS was attributed to severe hepatic 
encephalopathy. However, this was not typical for her, as she 
had previously had relatively well-compensated liver disease. 
Head CT revealed the cerebral edema. Nonetheless, she was 
continued on lactulose and rifaxamin for any contribution of 
hepatic encephalopathy to her AMS. TSH was checked and was 
normal. Also considered were infectious encephalopathies (ie 
HSV, bacterial). CT head upon arrival to ___ MICU revealed 
bilateral cerebral edema, primarily of the temporal lobes, most 
concerning for HSV encephalitis. Due to her extensive cerebral 
edeam, an LP could not be performed.  Neurology was consulted 
and recommeded EEG and empiric coverage for HSV encephalitis 
with acyclovir (10mg/kg Q8H).  No recommendation was made for 
mannitol initially given her sodium of > 150, but when sodium 
dropped below 150 on ___, several doses of mannitol were 
given.  Serum Osm was in the low 300s.  Neuro recommended 
stopping mannitol on ___, and starting hypertonic saline 
instead to reach sodium goal 150-155.  Sodium and serum 
osmolarity monitored Q6H. The MICU team also emperically covered 
for bacterial meningitis with CTX/Vancomycin, beginning ___.  
Her continuous EEG showed evidence of seizure activity at that 
time, and she was loaded with Keppra and maintenance dose begun. 
Serial repeat 24h video EEGs showed no further seziures, 
although she remained intubated and on propofol. Serial head 
imaging revealed stable cerebral edema but no evidence of CVA. 
On ___ a head MRI revealed not only diffuse bitemporal 
abnormailties as previously seen, but also extension into the 
grey matter, concerning for prior anoxic brain injury. 
Eventually neuro agreed with d/c'ing hypertonic saline and 
letting sodium drift down to 140 (but not below). When her 
mental status appeared improved, she was extubated on ___. She 
had no subsequent problems protecting her airway, but remained 
forgetful and altered. A repeat EEG was ordered per neurology to 
re-evaluate for subclinical seizure, which was without any 
evidence of seizure. Her prognosis is uncertain as to recovery 
from her anoxic brain injury, and she is left with significant 
mental deficits (oriented to person only at time of transfer). 
She is to followup with behavioral neurology next month.
.
# Respiratory:  Initially was intubated at OSH for airway 
protection after she became confused, felt ___ hepatic 
encephalopathy, later felt to be cerebral edema (see above). 
However, was noted at OSH to have fever and grew MRSA in sputum, 
so was started on Vanco on ___ for a MRSA pneumonia. Also of 
significance, at baseline, the patient has hepatopulmonary 
syndrome with PaO2 in the ___. At ___, her ventilator settings 
were changed to ARDSNET settings, and her FIO2 was progressively 
weaned. VAP precautions initiated. Culture data remained 
negative except for the MRSA in sputum from OSH and from intial 
presentation here. She completed a 2 week course of vancomycin 
and remained afebrile subsequently. When her mental status was 
felt to be clearer, she was successfully extubated on ___. She 
is comfortable on nasal cannula at time of transfer. Note should 
be made to avoid upright positioning for extended periods of 
time due to hepatopulmonary syndrome and orthodeoxia. ******Her 
baseline O2 sats are in the upper ___
.
# GI/Liver - Initial presentation to ___ showed 
bleeding ___ esophageal varices and she was stabilized with 
volume resuscitation.  In total, received 13 units PRBCs, 12 
units FFP, 20 units PLTs at ___.  She had 3 bands placed 
by EGD on ___, and repeat banding x 3 on ___.  She was 
hemodynamically stable upon transfer and remained so in the MICU 
at ___.  She was continued on IV protonix ___ and monitored 
with ___ HCTs. She was also started on post-GIB SBP ppx with 
cipro after her broader antibiotics (vanc/ctx) were d/c'ed once 
bacterial meningitis was felt to be unlikely. A beta blocker was 
added for post-bleed ppx. Diagnostic paracentesis on admission 
___ was negative for SBP. She was not stooling initially; 
given lactulose Q1H until she began stooling.  Later lactulose 
dose tapered. Rifaximin added.
.
# ID - initially was broadly covered out of concern for 
meningitis with vanc/CTX/acyclovir. She was also being treated 
for documented MRSA PNA with vancomycin. When bacterial 
meningitis was felt to be unlikely, the CTX was d/c'ed, but she 
completed a 2 week course of vanc for the MRSA PNA. She remains 
on acyclovir for a planned 3 week course per ID and neurology 
(___). She was briefly on ciprofloxacin for post-GIB sepsis 
ppx.
.
# Heme - has thrombocytopenia Likely ___ liver disease.  
Received several platelet transfusion at ___ hosptial, 
but none at ___.
.
# Psych - has depression, held meds given mental status
.
# PPx: pneumoboots, PPI
.
# CODE: FULL, confirmed
.
# Access
-- CVL changed upon arrival to ___, then d/c'ed ___ after 
extubation with adequate PIVs in place. Has 1 PIV in place 
currently.
.
# Contact: 
Husband ___ is HCP: ___
 
Medications on Admission:
MEDS AT HOME:  
Prilosec 40mg ___ BID  
fexofenadine 60mg ___ BID  
Maalox PRN  
propranolol 10mg ___ BID  
spironolactone 100mg BID  
rifaximin 400mg TID  
ursodiol 300mg BID  
acetaminophen PRN  
simethicone PRN  
Lexapro 20mg ___  
Abilify 20mg ___  
Lamictal 200mg ___  
Lasix 40mg ___  
Darvocet PRN  
.  
TRANSFER MEDS:  
Vancomycin 1000mg Q12 (day 1 = ___  
Levofloxacin 500mg ___ (day 1 = ___  
Protonix 40mg IV ___  
Insulin SS  
Pressidex gtt (0.7)  
Rifaxamin 400mg TID  
Reglan 5mg TID  
Combivent inhalers Q4H  
 
Discharge Medications:
1. Rifaximin 200 mg Tablet Sig: Two (2) Tablet ___ TID (3 times a 
day).  
2. Ursodiol 300 mg Capsule Sig: One (1) Capsule ___ BID (2 times 
a day).  
3. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical PRN 
(as needed).  
4. Levetiracetam 100 mg/mL Solution Sig: 1000 (1000) mg ___ Q 12H 
(Every 12 Hours).  
5. Spironolactone 100 mg Tablet Sig: One (1) Tablet ___ BID (2 
times a day).  
6. Propranolol 10 mg Tablet Sig: One (1) Tablet ___ BID (2 times 
a day).  
7. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML ___ QID 
(4 times a day) as needed.  
8. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) nebulizer Inhalation Q6H (every 6 
hours).  
9. Ipratropium Bromide 0.02 % Solution Sig: One (1) nebulizer 
Inhalation Q6H (every 6 hours).  
10. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
11. Acyclovir Sodium 500 mg Recon Soln Sig: Six Hundred Fifty 
(650) mg Intravenous Q8H (every 8 hours) for 5 days: last day 
___.  
12. Lasix 40 mg Tablet Sig: One (1) Tablet ___ twice a day.  
13. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML ___ QID (4 
times a day): titrate to 4 BMs ___.  
14. Insulin
Regular insulin sliding scale

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
anoxic brain injury
vericeal bleeding
Possible HSV encephalitis
.
Secondary:
end stage liver disease due to EtOH and HCV
Hepatopulmonary Syndrome - baseline sats high ___
Depression

 
Discharge Condition:
improved

 
Discharge Instructions:
You were transferred to ___ 
after suffering a gastrointestinal bleed due to your liver 
disease. You lost a lot of blood at ___, but 
they were able to stop the bleeding. However, you suffered 
swelling around the brain which necessitated intubation. You 
were transferred to us seriously ill. You were treated for a 
possible infection of your brain, and will be finishing a course 
of medicine for this at your rehab. Your lung function returned 
to your baseline level. 
.
Unfortunately, MRI scans of your head showed evidence of anoxic 
(lack of blood flow) brain injury, which may have occcurred from 
either blood loss or swelling around the brain. Our neurologists 
followed you closely and are uncertain of the extent of recovery 
that is possible. They would like you to follow up with them as 
follows.
 
Followup Instructions:
___